US06608077B2
a) 3-(azidocarbonyl)-2-methylpyridine
To a solution of 2-methylnicotinic acid (500 mg, 3.65 mmol) in a mixture of acetone (6.6 mL) and water (3.3 mL) was added triethylamine (1.02 mL, 7.3 mmol). The mixture was cooled to 0° C. in a ice-bath. Ethylchloroformate (0.79 g, 7.3 mmol) was then added and the resulting mixture was stirred for 1.5 hours at 0° C. To the mixture was added sodium azide (0.47 g, 7.3 mmol), and the mixture was stirred for another 1.5 hours. The mixture was concentrated, the residue was diluted with dichloromethane and washed with water. The organic layer was dried over MgSO4 and concentrated to give desired product (390 mg, 62%). 1HNMR (CDCl3) (δ) 8.67 (d, 1H), 8.21 (d, 1H), 7.24 (t, 1H), 2.88 (s, 3H).

reactant | 2-methylnicotinic acid | 3.65 mmol, 500 mg | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | triethylamine | 7.3 mmol, 1.02 mL | C(C)N(CC)CC | C6H15N
reactant | Ethylchloroformate | 7.3 mmol, 0.79 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | sodium azide | 7.3 mmol, 0.47 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 6.6 mL | CC(=O)C | C3H6O
solvent | water | 3.3 mL | O | H2O
product | 3-(azidocarbonyl)-2-methylpyridine | 390 mg, 62% | N(=[N+]=[N-])C(=O)C=1C(=NC=CC1)C | C7H6N4O
